US04474700
A mixture of 26.0 g (0.40 mole) of KCN, 150 ml of dimethyl formamide, 50 g (0.50 mole) of tetrafluoroethylene (TFE), and 50 g of CO2 was held at 50° for 4 hr., and then at 100° for 4 hr. at a maximum pressure of 1100 psi (7.6×103 kPa). The resulting mixture was dark and contained no insoluble salts. Volatile compounds were removed from the mixture under reduced pressure leaving a viscous residue of potassium 3-cyanotetrafluoropropionate, which substantially solidified to a deliquescent semisolid when triturated with ether. IR (neat): 2288 (weak covalently bound CN), 1680 (strong CO2), and 1250-1100 cm-1 (C--F, C--O) with broad H-bonded OH at 3450 and weak saturated CH at 2940 cm-1.

reactant | KCN | 0.40 mole, 26.0 g | [C-]#N.[K+]
reactant | tetrafluoroethylene | 0.50 mole, 50 g | FC(=C(F)F)F | C2F4
reactant | CO2 | 50 g | C(=O)=O | CO2
solvent | dimethyl formamide | 150 ml | CN(C=O)C | C3H7NO
product | potassium 3-cyanotetrafluoropropionate | C(#N)C(C(C(=O)[O-])(F)F)(F)F.[K+] | InChI=1S/C4HF4NO2.K/c5-3(6,1-9)4(7,8)2(10)11;/h(H,10,11);/q;+1/p-1
